**************************************************
* Manufacturer:       Wurth Elektronik 
* Kinds:     RadialLeadedWireWound Inductor
* Matchcode:          WE-TI
* Library Type:       spice
* Version:        rev19b
* Created/modified by:    Fredo       
* Date and Time   :       6/20/2019
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt 5075_7447462100_10u 1 2
Rp 1 2 19570
Cp 1 2 3.53p
Rs 1 N3 0.055
L1 N3 2 10u
.ends 5075_7447462100_10u
*******
.subckt 5075_7447462820_82u 1 2
Rp 1 2 109558.8
Cp 1 2 7.71582p
Rs 1 N3 0.47
L1 N3 2 82u
.ends 5075_7447462820_82u
*******
.subckt 8012_7447450103_10m 1 2
Rp 1 2 447280
Cp 1 2 12.987p
Rs 1 N3 13
L1 N3 2 10000u
.ends 8012_7447450103_10m
*******
.subckt 8075_744730392_3.9m 1 2
Rp 1 2 534740
Cp 1 2 4.634p
Rs 1 N3 9.5
L1 N3 2 3900u
.ends 8075_744730392_3.9m
*******
.subckt 8075_744732153_15m 1 2
Rp 1 2 92300000
Cp 1 2 9.24p
Rs 1 N3 50
L1 N3 2 15000u
.ends 8075_744732153_15m
*******
.subckt 8095_744772010_1u 1 2
Rp 1 2 3200
Cp 1 2 1.01p
Rs 1 N3 0.0047
L1 N3 2 1u
.ends 8095_744772010_1u
*******
.subckt 8095_744772022_2.2u 1 2
Rp 1 2 7390
Cp 1 2 1.93p
Rs 1 N3 0.00725
L1 N3 2 2.2u
.ends 8095_744772022_2.2u
*******
.subckt 8095_744772121_120u 1 2
Rp 1 2 133890
Cp 1 2 9.98p
Rs 1 N3 0.181
L1 N3 2 120u
.ends 8095_744772121_120u
*******
.subckt 8095_744772182_1.8m 1 2
Rp 1 2 259980
Cp 1 2 11.39p
Rs 1 N3 2.76
L1 N3 2 1800u
.ends 8095_744772182_1.8m
*******
.subckt 8095_744772200_20u 1 2
Rp 1 2 42210
Cp 1 2 6.7p
Rs 1 N3 0.038
L1 N3 2 20u
.ends 8095_744772200_20u
*******
.subckt 8095_744772390_39u 1 2
Rp 1 2 53840
Cp 1 2 7.72p
Rs 1 N3 0.07
L1 N3 2 39u
.ends 8095_744772390_39u
*******
.subckt 8095_744772560_56u 1 2
Rp 1 2 100000
Cp 1 2 8.78p
Rs 1 N3 0.1095
L1 N3 2 56u
.ends 8095_744772560_56u
*******
.subckt 8095_744772561_560u 1 2
Rp 1 2 235500
Cp 1 2 10.7p
Rs 1 N3 0.916
L1 N3 2 560u
.ends 8095_744772561_560u
*******
.subckt 8095_744772680_68u 1 2
Rp 1 2 107460
Cp 1 2 9.49p
Rs 1 N3 0.124
L1 N3 2 68u
.ends 8095_744772680_68u
*******
.subckt 8095_744772702_7m 1 2
Rp 1 2 1300000
Cp 1 2 8p
Rs 1 N3 11.7
L1 N3 2 7000u
.ends 8095_744772702_7m
*******
.subckt 8095_744772820_82u 1 2
Rp 1 2 111380
Cp 1 2 9.43p
Rs 1 N3 0.1546
L1 N3 2 82u
.ends 8095_744772820_82u
*******
.subckt 8095_7447728215_820u 1 2
Rp 1 2 241480
Cp 1 2 10.8p
Rs 1 N3 1.32
L1 N3 2 820u
.ends 8095_7447728215_820u
*******
.subckt 1014_7447480101_100u 1 2
Rp 1 2 131910
Cp 1 2 15.5p
Rs 1 N3 0.1
L1 N3 2 100u
.ends 1014_7447480101_100u
*******
.subckt 1014_7447480102_1000u 1 2
Rp 1 2 204700
Cp 1 2 19p
Rs 1 N3 1
L1 N3 2 1000u
.ends 1014_7447480102_1000u
*******
.subckt 1014_7447480122_1200u 1 2
Rp 1 2 214210
Cp 1 2 18p
Rs 1 N3 1.1
L1 N3 2 1200u
.ends 1014_7447480122_1200u
*******
.subckt 1014_7447480151_150u 1 2
Rp 1 2 138810
Cp 1 2 16.823p
Rs 1 N3 0.16
L1 N3 2 150u
.ends 1014_7447480151_150u
*******
.subckt 1014_7447480152_1500u 1 2
Rp 1 2 270490
Cp 1 2 20.2p
Rs 1 N3 1.5
L1 N3 2 1500u
.ends 1014_7447480152_1500u
*******
.subckt 1014_7447480221_220u 1 2
Rp 1 2 140800
Cp 1 2 17.1p
Rs 1 N3 0.23
L1 N3 2 220u
.ends 1014_7447480221_220u
*******
.subckt 1014_7447480222_2200u 1 2
Rp 1 2 270490
Cp 1 2 20.2p
Rs 1 N3 2.1
L1 N3 2 2200u
.ends 1014_7447480222_2200u
*******
.subckt 1014_7447480331_330u 1 2
Rp 1 2 168000
Cp 1 2 17.4p
Rs 1 N3 0.3
L1 N3 2 330u
.ends 1014_7447480331_330u
*******
.subckt 1014_7447480332_3300u 1 2
Rp 1 2 290158
Cp 1 2 18.614p
Rs 1 N3 3.2
L1 N3 2 3300u
.ends 1014_7447480332_3300u
*******
.subckt 1014_7447480471_470u 1 2
Rp 1 2 187000
Cp 1 2 17.663p
Rs 1 N3 0.47
L1 N3 2 470u
.ends 1014_7447480471_470u
*******
.subckt 1014_7447480562_5600u 1 2
Rp 1 2 332000
Cp 1 2 16p
Rs 1 N3 4.9
L1 N3 2 5600u
.ends 1014_7447480562_5600u
*******
.subckt 1014_7447480681_680u 1 2
Rp 1 2 190350
Cp 1 2 17.8p
Rs 1 N3 0.71
L1 N3 2 680u
.ends 1014_7447480681_680u
*******
.subckt 1014_7447480822_8200u 1 2
Rp 1 2 290158
Cp 1 2 18.614p
Rs 1 N3 7.5
L1 N3 2 8200u
.ends 1014_7447480822_8200u
*******
.subckt 5075_7447462010_1u 1 2
Rp 1 2 3900
Cp 1 2 1.41p
Rs 1 N3 0.006
L1 N3 2 1u
.ends 5075_7447462010_1u
*******
.subckt 5075_7447462022_2.2u 1 2
Rp 1 2 6700
Cp 1 2 3.06p
Rs 1 N3 0.01
L1 N3 2 2.2u
.ends 5075_7447462022_2.2u
*******
.subckt 5075_7447462033_3.3u 1 2
Rp 1 2 8500
Cp 1 2 3.74p
Rs 1 N3 0.016
L1 N3 2 3.3u
.ends 5075_7447462033_3.3u
*******
.subckt 5075_7447462047_4.7u 1 2
Rp 1 2 10340
Cp 1 2 4.35p
Rs 1 N3 0.019
L1 N3 2 4.7u
.ends 5075_7447462047_4.7u
*******
.subckt 5075_7447462068_6.8u 1 2
Rp 1 2 16020
Cp 1 2 3.78p
Rs 1 N3 0.027
L1 N3 2 6.8u
.ends 5075_7447462068_6.8u
*******
.subckt 5075_7447462101_100u 1 2
Rp 1 2 116350
Cp 1 2 5.47p
Rs 1 N3 0.45
L1 N3 2 100u
.ends 5075_7447462101_100u
*******
.subckt 5075_7447462102_1000u 1 2
Rp 1 2 235800
Cp 1 2 8.48p
Rs 1 N3 4.38
L1 N3 2 1000u
.ends 5075_7447462102_1000u
*******
.subckt 5075_7447462152_1500u 1 2
Rp 1 2 582140
Cp 1 2 9.7p
Rs 1 N3 6.54
L1 N3 2 1500u
.ends 5075_7447462152_1500u
*******
.subckt 5075_7447462220_22u 1 2
Rp 1 2 36370
Cp 1 2 5.24p
Rs 1 N3 0.102
L1 N3 2 22u
.ends 5075_7447462220_22u
*******
.subckt 5075_7447462221_220u 1 2
Rp 1 2 141270
Cp 1 2 8.76p
Rs 1 N3 0.96
L1 N3 2 220u
.ends 5075_7447462221_220u
*******
.subckt 5075_7447462222_2200u 1 2
Rp 1 2 611898
Cp 1 2 9.38p
Rs 1 N3 9.8
L1 N3 2 2200u
.ends 5075_7447462222_2200u
*******
.subckt 5075_7447462330_33u 1 2
Rp 1 2 49290
Cp 1 2 4.16p
Rs 1 N3 0.153
L1 N3 2 33u
.ends 5075_7447462330_33u
*******
.subckt 5075_7447462470_47u 1 2
Rp 1 2 90960
Cp 1 2 5.43p
Rs 1 N3 0.22
L1 N3 2 47u
.ends 5075_7447462470_47u
*******
.subckt 5075_7447462471_470u 1 2
Rp 1 2 162830
Cp 1 2 7.31p
Rs 1 N3 1.58
L1 N3 2 470u
.ends 5075_7447462471_470u
*******
.subckt 5075_7447462680_68u 1 2
Rp 1 2 109656
Cp 1 2 6.617p
Rs 1 N3 0.34
L1 N3 2 68u
.ends 5075_7447462680_68u
*******
.subckt 5075_7447462681_680u 1 2
Rp 1 2 261612
Cp 1 2 6.983p
Rs 1 N3 3.1
L1 N3 2 680u
.ends 5075_7447462681_680u
*******
.subckt 6065_7447790221_220u 1 2
Rp 1 2 193000
Cp 1 2 5.81p
Rs 1 N3 0.64
L1 N3 2 220u
.ends 6065_7447790221_220u
*******
.subckt 6065_7447790470_47u 1 2
Rp 1 2 61680
Cp 1 2 5.66p
Rs 1 N3 0.135
L1 N3 2 47u
.ends 6065_7447790470_47u
*******
.subckt 6065_744779068_6.8u 1 2
Rp 1 2 16190
Cp 1 2 2.94p
Rs 1 N3 0.027
L1 N3 2 6.8u
.ends 6065_744779068_6.8u
*******
.subckt 6065_744779100_10u 1 2
Rp 1 2 19660
Cp 1 2 3.53p
Rs 1 N3 0.0386
L1 N3 2 10u
.ends 6065_744779100_10u
*******
.subckt 6065_744779168_68u 1 2
Rp 1 2 65000
Cp 1 2 4.2p
Rs 1 N3 0.22
L1 N3 2 68u
.ends 6065_744779168_68u
*******
.subckt 8012_7447452100_10u 1 2
Rp 1 2 13360
Cp 1 2 7.93p
Rs 1 N3 0.015
L1 N3 2 10u
.ends 8012_7447452100_10u
*******
.subckt 8012_7447452101_100u 1 2
Rp 1 2 113550
Cp 1 2 12.24p
Rs 1 N3 0.13
L1 N3 2 100u
.ends 8012_7447452101_100u
*******
.subckt 8012_7447452102_1000u 1 2
Rp 1 2 206258
Cp 1 2 12.713p
Rs 1 N3 1.27
L1 N3 2 1000u
.ends 8012_7447452102_1000u
*******
.subckt 8012_7447452152_1500u 1 2
Rp 1 2 286306
Cp 1 2 15.581p
Rs 1 N3 1.75
L1 N3 2 1500u
.ends 8012_7447452152_1500u
*******
.subckt 8012_7447452221_220u 1 2
Rp 1 2 151910
Cp 1 2 13.361p
Rs 1 N3 0.27
L1 N3 2 220u
.ends 8012_7447452221_220u
*******
.subckt 8012_7447452222_2200u 1 2
Rp 1 2 299390
Cp 1 2 12.654p
Rs 1 N3 2.4
L1 N3 2 2200u
.ends 8012_7447452222_2200u
*******
.subckt 8012_7447452331_330u 1 2
Rp 1 2 156320
Cp 1 2 14.007p
Rs 1 N3 0.42
L1 N3 2 330u
.ends 8012_7447452331_330u
*******
.subckt 8012_7447452391_390u 1 2
Rp 1 2 204810
Cp 1 2 13.933p
Rs 1 N3 0.47
L1 N3 2 390u
.ends 8012_7447452391_390u
*******
.subckt 8012_7447452392_3900u 1 2
Rp 1 2 568880
Cp 1 2 14.285p
Rs 1 N3 4.55
L1 N3 2 3900u
.ends 8012_7447452392_3900u
*******
.subckt 8012_7447452472_4700u 1 2
Rp 1 2 695000
Cp 1 2 14.368p
Rs 1 N3 6.1
L1 N3 2 4700u
.ends 8012_7447452472_4700u
*******
.subckt 8012_7447452561_560u 1 2
Rp 1 2 199096
Cp 1 2 13.363p
Rs 1 N3 0.69
L1 N3 2 560u
.ends 8012_7447452561_560u
*******
.subckt 8012_7447452683_68000u 1 2
Rp 1 2 709600
Cp 1 2 15.406p
Rs 1 N3 90
L1 N3 2 68000u
.ends 8012_7447452683_68000u
*******
.subckt 8012_7447452821_820u 1 2
Rp 1 2 251962
Cp 1 2 12.755p
Rs 1 N3 1
L1 N3 2 820u
.ends 8012_7447452821_820u
*******
.subckt 8012B_744743101_100u 1 2
Rp 1 2 89830
Cp 1 2 10.34p
Rs 1 N3 0.25
L1 N3 2 100u
.ends 8012B_744743101_100u
*******
.subckt 8012B_744743102_1000u 1 2
Rp 1 2 165950
Cp 1 2 13.4p
Rs 1 N3 2.24
L1 N3 2 1000u
.ends 8012B_744743102_1000u
*******
.subckt 8012B_744743221_220u 1 2
Rp 1 2 129470
Cp 1 2 9.45p
Rs 1 N3 0.47
L1 N3 2 220u
.ends 8012B_744743221_220u
*******
.subckt 8012B_744743331_330u 1 2
Rp 1 2 141390
Cp 1 2 10.41p
Rs 1 N3 0.97
L1 N3 2 330u
.ends 8012B_744743331_330u
*******
.subckt 8012B_744743471_470u 1 2
Rp 1 2 156110
Cp 1 2 12.85p
Rs 1 N3 1.13
L1 N3 2 470u
.ends 8012B_744743471_470u
*******
.subckt 8055_744741101_100u 1 2
Rp 1 2 78440
Cp 1 2 3.48p
Rs 1 N3 0.42
L1 N3 2 100u
.ends 8055_744741101_100u
*******
.subckt 8055_744741102_1000u 1 2
Rp 1 2 220000
Cp 1 2 5.685p
Rs 1 N3 4.49
L1 N3 2 1000u
.ends 8055_744741102_1000u
*******
.subckt 8055_744741221_220u 1 2
Rp 1 2 103200
Cp 1 2 4.52p
Rs 1 N3 0.97
L1 N3 2 220u
.ends 8055_744741221_220u
*******
.subckt 8055_744741222_2200u 1 2
Rp 1 2 225450
Cp 1 2 5.88p
Rs 1 N3 9.13
L1 N3 2 2200u
.ends 8055_744741222_2200u
*******
.subckt 8055_7447412331_330u 1 2
Rp 1 2 115850
Cp 1 2 4.82p
Rs 1 N3 1.25
L1 N3 2 330u
.ends 8055_7447412331_330u
*******
.subckt 8055_7447412681_680u 1 2
Rp 1 2 160310
Cp 1 2 5p
Rs 1 N3 2.62
L1 N3 2 680u
.ends 8055_7447412681_680u
*******
.subckt 8055_744741471_470u 1 2
Rp 1 2 158980
Cp 1 2 4.95p
Rs 1 N3 2.12
L1 N3 2 470u
.ends 8055_744741471_470u
*******
.subckt 8055_744741472_4700u 1 2
Rp 1 2 500000
Cp 1 2 6.12p
Rs 1 N3 21.18
L1 N3 2 4700u
.ends 8055_744741472_4700u
*******
.subckt 8075_744732015_1.5u 1 2
Rp 1 2 4350
Cp 1 2 1.45p
Rs 1 N3 0.007
L1 N3 2 1.5u
.ends 8075_744732015_1.5u
*******
.subckt 8075_744732100_10u 1 2
Rp 1 2 21050
Cp 1 2 4.24p
Rs 1 N3 0.027
L1 N3 2 10u
.ends 8075_744732100_10u
*******
.subckt 8075_744732102_1000u 1 2
Rp 1 2 314850
Cp 1 2 7.73p
Rs 1 N3 2.8
L1 N3 2 1000u
.ends 8075_744732102_1000u
*******
.subckt 8075_744732121_120u 1 2
Rp 1 2 82430
Cp 1 2 6.29p
Rs 1 N3 0.34
L1 N3 2 120u
.ends 8075_744732121_120u
*******
.subckt 8075_744732152_1500u 1 2
Rp 1 2 500000
Cp 1 2 4.5p
Rs 1 N3 4.25
L1 N3 2 1500u
.ends 8075_744732152_1500u
*******
.subckt 8075_744732221_220u 1 2
Rp 1 2 162670
Cp 1 2 5.83p
Rs 1 N3 0.59
L1 N3 2 220u
.ends 8075_744732221_220u
*******
.subckt 8075_744732331_330u 1 2
Rp 1 2 199060
Cp 1 2 5.38p
Rs 1 N3 0.94
L1 N3 2 330u
.ends 8075_744732331_330u
*******
.subckt 8075_744732470_47u 1 2
Rp 1 2 48547
Cp 1 2 8.51p
Rs 1 N3 0.114
L1 N3 2 47u
.ends 8075_744732470_47u
*******
.subckt 8075_744732471_470u 1 2
Rp 1 2 273530
Cp 1 2 6.69p
Rs 1 N3 1.44
L1 N3 2 470u
.ends 8075_744732471_470u
*******
.subckt 8075_744732681_680u 1 2
Rp 1 2 283430
Cp 1 2 7.94p
Rs 1 N3 1.79
L1 N3 2 680u
.ends 8075_744732681_680u
*******
.subckt 8075_7447721047_4700u 1 2
Rp 1 2 358840
Cp 1 2 6.93p
Rs 1 N3 10.98
L1 N3 2 4700u
.ends 8075_7447721047_4700u
*******
.subckt 8095_7447720010_1u 1 2
Rp 1 2 3241
Cp 1 2 0.873729p
Rs 1 N3 0.009
L1 N3 2 0.773822u
.ends 8095_7447720010_1u
*******
.subckt 8095_7447720022_2.2u 1 2
Rp 1 2 6702
Cp 1 2 0.855743p
Rs 1 N3 0.013
L1 N3 2 1.946u
.ends 8095_7447720022_2.2u
*******
.subckt 8095_7447720033_3.3u 1 2
Rp 1 2 10043
Cp 1 2 0.882163p
Rs 1 N3 0.016
L1 N3 2 3.01u
.ends 8095_7447720033_3.3u
*******
.subckt 8095_7447720047_4.7u 1 2
Rp 1 2 13136
Cp 1 2 1.153p
Rs 1 N3 0.019
L1 N3 2 4.406u
.ends 8095_7447720047_4.7u
*******
.subckt 8095_7447720068_6.8u 1 2
Rp 1 2 10285
Cp 1 2 2.68p
Rs 1 N3 0.024
L1 N3 2 6.988u
.ends 8095_7447720068_6.8u
*******
.subckt 8095_7447720100_10u 1 2
Rp 1 2 11820
Cp 1 2 7.309p
Rs 1 N3 0.03
L1 N3 2 9.913u
.ends 8095_7447720100_10u
*******
.subckt 8095_7447720101_100u 1 2
Rp 1 2 78404
Cp 1 2 6.957p
Rs 1 N3 0.198
L1 N3 2 97.702u
.ends 8095_7447720101_100u
*******
.subckt 8095_7447720102_1000u 1 2
Rp 1 2 206222
Cp 1 2 8.97p
Rs 1 N3 1.89
L1 N3 2 1001u
.ends 8095_7447720102_1000u
*******
.subckt 8095_7447720103_10000u 1 2
Rp 1 2 567589
Cp 1 2 9.307p
Rs 1 N3 19.52
L1 N3 2 9858u
.ends 8095_7447720103_10000u
*******
.subckt 8095_7447720122_1200u 1 2
Rp 1 2 250390
Cp 1 2 10.91p
Rs 1 N3 2.18
L1 N3 2 1200u
.ends 8095_7447720122_1200u
*******
.subckt 8095_7447720150_15u 1 2
Rp 1 2 32400
Cp 1 2 6.36p
Rs 1 N3 0.0334
L1 N3 2 15u
.ends 8095_7447720150_15u
*******
.subckt 8095_7447720151_150u 1 2
Rp 1 2 135270
Cp 1 2 9.95p
Rs 1 N3 0.243
L1 N3 2 150u
.ends 8095_7447720151_150u
*******
.subckt 8095_7447720152_1500u 1 2
Rp 1 2 207270
Cp 1 2 8.972p
Rs 1 N3 2.67
L1 N3 2 1460u
.ends 8095_7447720152_1500u
*******
.subckt 8095_7447720180_18u 1 2
Rp 1 2 42520
Cp 1 2 7.37p
Rs 1 N3 0.041
L1 N3 2 18u
.ends 8095_7447720180_18u
*******
.subckt 8095_7447720181_180u 1 2
Rp 1 2 141270
Cp 1 2 10.13p
Rs 1 N3 0.287
L1 N3 2 180u
.ends 8095_7447720181_180u
*******
.subckt 8095_7447720220_22u 1 2
Rp 1 2 19554
Cp 1 2 7.128p
Rs 1 N3 0.046
L1 N3 2 20.467u
.ends 8095_7447720220_22u
*******
.subckt 8095_7447720221_220u 1 2
Rp 1 2 96670
Cp 1 2 8.194p
Rs 1 N3 0.389
L1 N3 2 211.021u
.ends 8095_7447720221_220u
*******
.subckt 8095_7447720222_2200u 1 2
Rp 1 2 278000
Cp 1 2 11.607p
Rs 1 N3 3.3
L1 N3 2 2200u
.ends 8095_7447720222_2200u
*******
.subckt 8095_7447720330_33u 1 2
Rp 1 2 28146
Cp 1 2 6.327p
Rs 1 N3 0.059
L1 N3 2 30.792u
.ends 8095_7447720330_33u
*******
.subckt 8095_7447720331_330u 1 2
Rp 1 2 128923
Cp 1 2 7.838p
Rs 1 N3 0.587
L1 N3 2 322.954u
.ends 8095_7447720331_330u
*******
.subckt 8095_7447720332_3300u 1 2
Rp 1 2 303912
Cp 1 2 8.123p
Rs 1 N3 6.53
L1 N3 2 3237u
.ends 8095_7447720332_3300u
*******
.subckt 8095_7447720392_3900u 1 2
Rp 1 2 320000
Cp 1 2 11.439p
Rs 1 N3 5.795
L1 N3 2 3900u
.ends 8095_7447720392_3900u
*******
.subckt 8095_7447720470_47u 1 2
Rp 1 2 43543
Cp 1 2 6.501p
Rs 1 N3 0.089
L1 N3 2 46.318u
.ends 8095_7447720470_47u
*******
.subckt 8095_7447720471_470u 1 2
Rp 1 2 129153
Cp 1 2 9.486p
Rs 1 N3 0.883
L1 N3 2 462.051u
.ends 8095_7447720471_470u
*******
.subckt 8095_7447720472_4700u 1 2
Rp 1 2 476334
Cp 1 2 7.879p
Rs 1 N3 8.33
L1 N3 2 4636u
.ends 8095_7447720472_4700u
*******
.subckt 8095_7447720681_680u 1 2
Rp 1 2 177759
Cp 1 2 8.457p
Rs 1 N3 1.29
L1 N3 2 664.793u
.ends 8095_7447720681_680u
*******
.subckt 8095_7447722473_47000u 1 2
Rp 1 2 289500
Cp 1 2 12.227p
Rs 1 N3 93
L1 N3 2 47000u
.ends 8095_7447722473_47000u
*******
