**************************************************
* Manufacturer:       Wurth Elektronik 
* Kinds:      Inductor
* Matchcode:          WE-TIF
* Library Type:       spice
* Version:        rev19b
* Created/modified by:    Fredo       
* Date and Time   :       6/20/2019
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt 1014_7447211101_100u 1 2
Rp 1 2 89778.02060452
Cp 1 2 15.395040607p
Rs 1 N3 0.105
L1 N3 2 100u
.ends 1014_7447211101_100u
*******
.subckt 1014_7447211102_1000u 1 2
Rp 1 2 103195.9323174
Cp 1 2 16.8026741414p
Rs 1 N3 0.97
L1 N3 2 1000u
.ends 1014_7447211102_1000u
*******
.subckt 1014_7447211103_10000u 1 2
Rp 1 2 559000
Cp 1 2 17.4399235182p
Rs 1 N3 9.3
L1 N3 2 10000u
.ends 1014_7447211103_10000u
*******
.subckt 1014_7447211221_220u 1 2
Rp 1 2 75000
Cp 1 2 19.1883622726p
Rs 1 N3 0.22
L1 N3 2 220u
.ends 1014_7447211221_220u
*******
.subckt 1014_7447211222_2200u 1 2
Rp 1 2 148000
Cp 1 2 15.6956618434p
Rs 1 N3 2.1
L1 N3 2 2200u
.ends 1014_7447211222_2200u
*******
.subckt 1014_7447211331_330u 1 2
Rp 1 2 86000
Cp 1 2 16.1p
Rs 1 N3 0.32
L1 N3 2 330u
.ends 1014_7447211331_330u
*******
.subckt 1014_7447211332_3300u 1 2
Rp 1 2 162000
Cp 1 2 16.46p
Rs 1 N3 3.1
L1 N3 2 3300u
.ends 1014_7447211332_3300u
*******
.subckt 1014_7447211471_470u 1 2
Rp 1 2 72600
Cp 1 2 15.36p
Rs 1 N3 0.46
L1 N3 2 470u
.ends 1014_7447211471_470u
*******
.subckt 1014_7447211472_4700u 1 2
Rp 1 2 365400
Cp 1 2 18.2630043274p
Rs 1 N3 4.3
L1 N3 2 4700u
.ends 1014_7447211472_4700u
*******
.subckt 1014_7447211681_680u 1 2
Rp 1 2 159600
Cp 1 2 17.36p
Rs 1 N3 0.66
L1 N3 2 680u
.ends 1014_7447211681_680u
*******
.subckt 1014_7447211682_6800u 1 2
Rp 1 2 496000
Cp 1 2 16.768480119p
Rs 1 N3 6.3
L1 N3 2 6800u
.ends 1014_7447211682_6800u
*******
.subckt 1016_7447221101_100u 1 2
Rp 1 2 90000
Cp 1 2 14.22p
Rs 1 N3 0.08
L1 N3 2 100u
.ends 1016_7447221101_100u
*******
.subckt 1016_7447221102_1000u 1 2
Rp 1 2 190000
Cp 1 2 20.02p
Rs 1 N3 0.82
L1 N3 2 1000u
.ends 1016_7447221102_1000u
*******
.subckt 1016_7447221103_10000u 1 2
Rp 1 2 610000
Cp 1 2 21p
Rs 1 N3 8.4
L1 N3 2 10000u
.ends 1016_7447221103_10000u
*******
.subckt 1016_7447221221_220u 1 2
Rp 1 2 107000
Cp 1 2 17.64p
Rs 1 N3 0.175
L1 N3 2 220u
.ends 1016_7447221221_220u
*******
.subckt 1016_7447221222_2200u 1 2
Rp 1 2 220000
Cp 1 2 18.04p
Rs 1 N3 1.8
L1 N3 2 2200u
.ends 1016_7447221222_2200u
*******
.subckt 1016_7447221331_330u 1 2
Rp 1 2 142600
Cp 1 2 17.7p
Rs 1 N3 0.265
L1 N3 2 330u
.ends 1016_7447221331_330u
*******
.subckt 1016_7447221332_3300u 1 2
Rp 1 2 254000
Cp 1 2 18.12p
Rs 1 N3 2.7
L1 N3 2 3300u
.ends 1016_7447221332_3300u
*******
.subckt 1016_7447221471_470u 1 2
Rp 1 2 146173.4139506
Cp 1 2 17.02p
Rs 1 N3 0.37
L1 N3 2 470u
.ends 1016_7447221471_470u
*******
.subckt 1016_7447221472_4700u 1 2
Rp 1 2 340000
Cp 1 2 19.1p
Rs 1 N3 3.88
L1 N3 2 4700u
.ends 1016_7447221472_4700u
*******
.subckt 1016_7447221681_680u 1 2
Rp 1 2 162461.2176448
Cp 1 2 18.84p
Rs 1 N3 0.56
L1 N3 2 680u
.ends 1016_7447221681_680u
*******
.subckt 1016_7447221682_6800u 1 2
Rp 1 2 560000
Cp 1 2 19.3p
Rs 1 N3 5.7
L1 N3 2 6800u
.ends 1016_7447221682_6800u
*******
.subckt 1018_7447231101_100u 1 2
Rp 1 2 100400
Cp 1 2 17.24p
Rs 1 N3 0.072
L1 N3 2 100u
.ends 1018_7447231101_100u
*******
.subckt 1018_7447231102_1000u 1 2
Rp 1 2 180280.882332
Cp 1 2 21.68p
Rs 1 N3 0.72
L1 N3 2 1000u
.ends 1018_7447231102_1000u
*******
.subckt 1018_7447231103_10000u 1 2
Rp 1 2 802741.9933612
Cp 1 2 22.72p
Rs 1 N3 7.2
L1 N3 2 10000u
.ends 1018_7447231103_10000u
*******
.subckt 1018_7447231221_220u 1 2
Rp 1 2 119000
Cp 1 2 21.96p
Rs 1 N3 0.155
L1 N3 2 220u
.ends 1018_7447231221_220u
*******
.subckt 1018_7447231222_2200u 1 2
Rp 1 2 213000
Cp 1 2 20.96p
Rs 1 N3 1.55
L1 N3 2 2200u
.ends 1018_7447231222_2200u
*******
.subckt 1018_7447231331_330u 1 2
Rp 1 2 125000
Cp 1 2 20.46p
Rs 1 N3 0.23
L1 N3 2 330u
.ends 1018_7447231331_330u
*******
.subckt 1018_7447231332_3300u 1 2
Rp 1 2 259323.969099
Cp 1 2 22.72p
Rs 1 N3 2.3
L1 N3 2 3300u
.ends 1018_7447231332_3300u
*******
.subckt 1018_7447231471_470u 1 2
Rp 1 2 147000
Cp 1 2 19.62p
Rs 1 N3 0.325
L1 N3 2 470u
.ends 1018_7447231471_470u
*******
.subckt 1018_7447231472_4700u 1 2
Rp 1 2 376000
Cp 1 2 22.78p
Rs 1 N3 3.25
L1 N3 2 4700u
.ends 1018_7447231472_4700u
*******
.subckt 1018_7447231681_680u 1 2
Rp 1 2 160000
Cp 1 2 23.5p
Rs 1 N3 0.48
L1 N3 2 680u
.ends 1018_7447231681_680u
*******
.subckt 1018_7447231682_6800u 1 2
Rp 1 2 540416.2518812
Cp 1 2 24.3p
Rs 1 N3 4.8
L1 N3 2 6800u
.ends 1018_7447231682_6800u
*******
