**************************************************
* Manufacturer:       Wurth Elektronik 
* Kinds:      Inductor
* Matchcode:          WE-TIS
* Library Type:       spice
* Version:        rev19b
* Created/modified by:    Fredo       
* Date and Time   :       6/20/2019
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt 1111_7447471013_1.3u 1 2
Rp 1 2 2014
Cp 1 2 2.4p
Rs 1 N3 0.006
L1 N3 2 1.1u
.ends 1111_7447471013_1.3u
*******
.subckt 1111_7447471022_2.2u 1 2
Rp 1 2 2868
Cp 1 2 2.56p
Rs 1 N3 0.0075
L1 N3 2 1.88u
.ends 1111_7447471022_2.2u
*******
.subckt 1111_7447471033_3.3u 1 2
Rp 1 2 3704
Cp 1 2 2.56p
Rs 1 N3 0.009
L1 N3 2 2.96u
.ends 1111_7447471033_3.3u
*******
.subckt 1111_7447471047_4.7u 1 2
Rp 1 2 4590
Cp 1 2 2.61p
Rs 1 N3 0.0105
L1 N3 2 4.26u
.ends 1111_7447471047_4.7u
*******
.subckt 1111_7447471068_6.8u 1 2
Rp 1 2 5710
Cp 1 2 2.71p
Rs 1 N3 0.0119
L1 N3 2 6.18u
.ends 1111_7447471068_6.8u
*******
.subckt 1111_7447471100_10u 1 2
Rp 1 2 8940
Cp 1 2 1.69p
Rs 1 N3 0.0175
L1 N3 2 9.74u
.ends 1111_7447471100_10u
*******
.subckt 1111_7447471101_100u 1 2
Rp 1 2 730244
Cp 1 2 17.1296p
Rs 1 N3 0.15
L1 N3 2 98u
.ends 1111_7447471101_100u
*******
.subckt 1111_7447471102_1000u 1 2
Rp 1 2 169.22
Cp 1 2 21.893p
Rs 1 N3 1.2
L1 N3 2 975.448u
.ends 1111_7447471102_1000u
*******
.subckt 1111_7447471151_150u 1 2
Rp 1 2 105760
Cp 1 2 13.967p
Rs 1 N3 0.21
L1 N3 2 143u
.ends 1111_7447471151_150u
*******
.subckt 1111_7447471220_22u 1 2
Rp 1 2 16670
Cp 1 2 2.06p
Rs 1 N3 0.038
L1 N3 2 18.63u
.ends 1111_7447471220_22u
*******
.subckt 1111_7447471221_220u 1 2
Rp 1 2 126342
Cp 1 2 15.1948p
Rs 1 N3 0.27
L1 N3 2 210.436u
.ends 1111_7447471221_220u
*******
.subckt 1111_7447471222_2200u 1 2
Rp 1 2 451742
Cp 1 2 17.8392p
Rs 1 N3 2.25
L1 N3 2 2266.18u
.ends 1111_7447471222_2200u
*******
.subckt 1111_7447471330_33u 1 2
Rp 1 2 21390
Cp 1 2 7.66p
Rs 1 N3 0.05
L1 N3 2 31.18u
.ends 1111_7447471330_33u
*******
.subckt 1111_7447471331_330u 1 2
Rp 1 2 102982
Cp 1 2 18.8874p
Rs 1 N3 0.4
L1 N3 2 324.01u
.ends 1111_7447471331_330u
*******
.subckt 1111_7447471332_3300u 1 2
Rp 1 2 419193
Cp 1 2 17.8898p
Rs 1 N3 4
L1 N3 2 3051.12u
.ends 1111_7447471332_3300u
*******
.subckt 1111_7447471470_47u 1 2
Rp 1 2 3759
Cp 1 2 7.2p
Rs 1 N3 0.074
L1 N3 2 43.15u
.ends 1111_7447471470_47u
*******
.subckt 1111_7447471471_470u 1 2
Rp 1 2 126862
Cp 1 2 16.793p
Rs 1 N3 0.58
L1 N3 2 459.17u
.ends 1111_7447471471_470u
*******
.subckt 1111_7447471472_4700u 1 2
Rp 1 2 624197
Cp 1 2 19.7042p
Rs 1 N3 6.3
L1 N3 2 4472.72u
.ends 1111_7447471472_4700u
*******
.subckt 1111_7447471682_6800u 1 2
Rp 1 2 90060
Cp 1 2 14.31p
Rs 1 N3 8.2
L1 N3 2 6351.85u
.ends 1111_7447471682_6800u
*******
.subckt 8075_744731102_1000u 1 2
Rp 1 2 175200
Cp 1 2 9.68p
Rs 1 N3 1.85
L1 N3 2 1041u
.ends 8075_744731102_1000u
*******
.subckt 8075_744731152_1500u 1 2
Rp 1 2 369740
Cp 1 2 10.256p
Rs 1 N3 2.3
L1 N3 2 1510u
.ends 8075_744731152_1500u
*******
.subckt 8075_744731222_2200u 1 2
Rp 1 2 402510
Cp 1 2 11.06p
Rs 1 N3 3.8
L1 N3 2 2015u
.ends 8075_744731222_2200u
*******
.subckt 8075_744731331_330u 1 2
Rp 1 2 140000
Cp 1 2 8.6433p
Rs 1 N3 0.65
L1 N3 2 316.9u
.ends 8075_744731331_330u
*******
.subckt 8075_744731332_3300u 1 2
Rp 1 2 595000
Cp 1 2 6.4073p
Rs 1 N3 6.2
L1 N3 2 3136.94u
.ends 8075_744731332_3300u
*******
.subckt 8075_744731471_470u 1 2
Rp 1 2 159120
Cp 1 2 10.5p
Rs 1 N3 0.8
L1 N3 2 454.44u
.ends 8075_744731471_470u
*******
.subckt 8075_744731472_4700u 1 2
Rp 1 2 620000
Cp 1 2 6.4073p
Rs 1 N3 9.1
L1 N3 2 4586.65u
.ends 8075_744731472_4700u
*******
.subckt 8075_744731562_5600u 1 2
Rp 1 2 680000
Cp 1 2 7.054p
Rs 1 N3 12
L1 N3 2 5536.09u
.ends 8075_744731562_5600u
*******
.subckt 8075_744731680_68u 1 2
Rp 1 2 34320
Cp 1 2 8.92p
Rs 1 N3 0.17
L1 N3 2 70.85u
.ends 8075_744731680_68u
*******
.subckt 8075_744731681_680u 1 2
Rp 1 2 344446
Cp 1 2 8.318p
Rs 1 N3 1.3
L1 N3 2 649.73u
.ends 8075_744731681_680u
*******
.subckt 8075_744731822_8200u 1 2
Rp 1 2 576200
Cp 1 2 7.636p
Rs 1 N3 12.5
L1 N3 2 8830.7u
.ends 8075_744731822_8200u
*******
